US08304556B2
A-46a) 1,1-Dimethyl-3-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-urea
A mixture of 2-amino-5,6-dihydro-4H-benzothiazol-7-one (10 g, 59 mmol), DBU (18 mL, 0.12 mol) and CDI (24 g, 0.15 mol) in 400 mL acetonitrile is stirred for 5 h at 100° C. Then dimethylamine (150 mL, 2M in THF) is added and the reaction mixture is stirred overnight at 100° C. The reaction mixture is concentrated under reduced pressure and the residue is poured in water. The mixture is acidified to pH 5 with 6 M HCl in water and extracted with ethyl acetate. The combined organic phases are dried over MgSO4 and concentrated under reduced pressure. The residue is triturated with diethyl ether. Yield: 9.1 g.

reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 59 mmol, 10 g | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | DBU | 0.12 mol, 18 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | CDI | 0.15 mol, 24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylamine | 2M, 150 mL | CNC | C2H7N
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 1,1-Dimethyl-3-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-urea | CN(C(=O)NC=1SC2=C(N1)CCCC2=O)C | C10H13N3O2S
